US06962933B1
N-[4-(3,5-dimethylphenyl)-5-(4-pyridyl)-1,3-thiazol-2-yl]-N′-propylurea
To a solution of [4-(3,5-dimethylphenyl)-5-(4-pyridyl)-1,3-thiazol-2-yl]amine (0.51 g, 1.8 mmol) in N,N-dimethylacetamide (15 mL) was added propyl isocyanate (0.23 g, 2.67 mmol) and the mixture was stirred at 80° C. for 14 h. To the reaction mixture was poured aqueous sodium hydrogencarbonate solution and the precipitated solid was collected by filtration. The obtained solid was washed with water and dried. The crude crystals were recrystallized from ethanol to give the title compound (0.23 g, yield 33%).

reactant | [4-(3,5-dimethylphenyl)-5-(4-pyridyl)-1,3-thiazol-2-yl]amine | 1.8 mmol, 0.51 g | CC=1C=C(C=C(C1)C)C=1N=C(SC1C1=CC=NC=C1)N | C16H15N3S
reactant | propyl isocyanate | 2.67 mmol, 0.23 g | C(CC)N=C=O | C4H7NO
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | N,N-dimethylacetamide | 15 mL | CN(C(C)=O)C | C4H9NO
product | N-[4-(3,5-dimethylphenyl)-5-(4-pyridyl)-1,3-thiazol-2-yl]-N′-propylurea | 0.23 g, yield 33% | CC=1C=C(C=C(C1)C)C=1N=C(SC1C1=CC=NC=C1)NC(=O)NCCC | C20H22N4OS
